US08541455B2
3.3. methyl 2-{3-[2-(dimethylamino)ethoxy]benzyl}-3-oxobutanoate
A mixture of 1.5 g (6.75 mmol) of methyl 2-(3-hydroxybenzyl)-3-oxobutanoate, 6.6 g (20.25 mmol) of anhydrous Cs2CO3, 0.1 g (0.67 mmol) of NaI and 1 g (7.1 mmol) of 2-dimethylaminoethyl chloride hydrochloride in 20 mL of anhydrous CH3CN is heated for 4 hours at 90° C., and then stirred overnight at room temperature. The reaction medium is filtered and then concentrated under reduced pressure. The residue obtained is taken up in DCM (100 mL), washed with brine (30 mL), dried over Na2SO4, filtered, concentrated under reduced pressure and then purified by chromatography on a column of silica gel, eluting with a DCM/MeOH gradient of 0 to 10% MeOH. After concentrating under reduced pressure, 409 mg of methyl 2-{3-[2-(dimethylamino)ethoxy]benzyl}-3-oxobutanoate are obtained in the form of a brown wax.

reactant | methyl 2-(3-hydroxybenzyl)-3-oxobutanoate | 6.75 mmol, 1.5 g | OC=1C=C(CC(C(=O)OC)C(C)=O)C=CC1 | C12H14O4
reactant | Cs2CO3 | 20.25 mmol, 6.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaI | 0.67 mmol, 0.1 g | [Na+].[I-]
reactant | 2-dimethylaminoethyl chloride hydrochloride | 7.1 mmol, 1 g | Cl.CN(CCCl)C
solvent | CH3CN | 20 mL | CC#N | C2H3N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-{3-[2-(dimethylamino)ethoxy]benzyl}-3-oxobutanoate | CN(CCOC=1C=C(CC(C(=O)OC)C(C)=O)C=CC1)C | C16H23NO4
